US08455658B2
(1). N-(5-bromo-4-methylthiazol-2-yl)-2,6-difluorobenzamide
2-Amino-5-bromo-4-trifluoromethylthiazole (0.8 g) was dissolved in 3 mL of 1:1 mixture of THF and pyridine. 2,6-difluorobenzoylchloride (0.6 g) was added at room temperature with stirring. The mixture was stirred for 3 hours at room temperature. The mixture was poured into ice water and acidified with aqueous hydrochloric acid then extracted with chloroform. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. Flash chromatography on silica gel gave the title compound as a white solid. Yield 83%.

reactant | 2-Amino-5-bromo-4-trifluoromethylthiazole | 0.8 g | NC=1SC(=C(N1)C(F)(F)F)Br | C4H2BrF3N2S
reactant | 2,6-difluorobenzoylchloride | 0.6 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-4-methylthiazol-2-yl)-2,6-difluorobenzamide | Yield 83% | BrC1=C(N=C(S1)NC(C1=C(C=CC=C1F)F)=O)C | C11H7BrF2N2OS
